US09029371B2
To a solution of 1-(4-hydroxy-2-trifluoromethyl-phenyl)-ethanone (29.74 g; 145.7 mmol) in CH2Cl2 (300 mL) and THF (120 mL) was added Et3N (24.4 mL; 174.8 mmol), at 0° C. To the resulting mixture was added dropwise a solution of methanesulfonyl chloride (12.5 mL; 160.3 mmol) in CH2Cl2 (60 mL), at 0° C. Subsequently the mixture was stirred overnight at RT, and poured in ice-water. The layers were separated and the organic layer was washed with 1 M aqueous HCl and water; dried (MgSO4), filtered and concentrated in vacuo to afford methanesulfonic acid 4-acetyl-3-trifluoromethyl-phenyl ester (40.47 g), which was used as such.

reactant | 1-(4-hydroxy-2-trifluoromethyl-phenyl)-ethanone | 145.7 mmol, 29.74 g | OC1=CC(=C(C=C1)C(C)=O)C(F)(F)F | C9H7F3O2
reactant | Et3N | 174.8 mmol, 24.4 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 160.3 mmol, 12.5 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 4-acetyl-3-trifluoromethyl-phenyl ester | 40.47 g | C(C)(=O)C1=C(C=C(C=C1)OS(=O)(=O)C)C(F)(F)F | C10H9F3O4S
